US08791146B2
2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-6-(3-hydroxypropoxy)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile
30 μl (0.419 mmol) of 1,3-propanediol are initially charged in 2 ml of DMF, 18 mg (0.154 mmol) of potassium tert-butoxide are added and the mixture is stirred for 15 minutes, after which 75 mg (0.14 mmol) of 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile, dissolved in 2 ml of DMF, are added. The reaction mixture is stirred at room temperature for 30 minutes and then purified by preparative HPLC (acetonitrile/water: 10:90→95:5). This gives 11 mg (15% of theory) of the target compound.

reactant | 1,3-propanediol | 0.419 mmol, 30 μl | C(CCO)O | C3H8O2
reactant | potassium tert-butoxide | 0.154 mmol, 18 mg | CC(C)([O-])C.[K+]
reactant | 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | 0.14 mmol, 75 mg | ClC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H9Cl2N5S3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-6-(3-hydroxypropoxy)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | ClC1=CC=C(C=C1)C=1SC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)OCCCO | C23H16ClN5O2S3
